US07872014B2
A mixture of 3-methyl-4-(2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)-1H-pyrazol-5-amine (115 mg, 0.42 mmol), 3-chloro-4-hydroxybenzaldehyde (100 mg, 0.64 mmol) and trifluoroacetic acid (3 mL) was heated at 70° C. for 18 hours. The reaction mixture was concentrated, dissolved in 10 mL of N,N-dimethylformamide and purified by preparatory HPLC (Shimadzu LC-8A HPLC, Waters Xterra C18 30 mm×100 mm column, acetonitrile-water-trifluoroacetic acid eluent). After concentration and lyophillization of the pure fractions a yellow powder was obtained. The solid was dissolved in 4 mL of 1:1 methanol: 4M hydrogen chloride in dioxane, and evaporated to dryness (repeated three times) yielded 2-chloro-4-(1-methyl-9-(methyloxy)-8-{[2-(methyloxy)ethyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloride salt (76 mg, 0.17 mmol, 40% yield) 1H NMR (400 MHz, d6-DMSO): 10.82 (b, 1H), 7.80-7.78 (d, 1H), 7.65 (s, 1H), 746-7.44 (m, 2H), 7.18-7.16 (d, 1H), 4.37-4.35 (m, 2H), 3.94 (s, 3H), 3.78-3.76 (m, 2H), 3.36 (s, 3H), 2.83 (s, 3H); MS (EI) for C21H20ClN3O4: 414 (MH+).

reactant | 3-methyl-4-(2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)-1H-pyrazol-5-amine | 0.42 mmol, 115 mg | CC1=NNC(=C1C1=C(C(=CC=C1)OCCOC)OC)N | C14H19N3O3
reactant | 3-chloro-4-hydroxybenzaldehyde | 0.64 mmol, 100 mg | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 4 mL | CO | CH4O
product | 2-chloro-4-(1-methyl-9-(methyloxy)-8-{[2-(methyloxy)ethyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloride salt | 0.17 mmol, 76 mg, 40% yield | Cl.ClC1=C(C=CC(=C1)C1=NC2=C(C=3C(=C(C=CC13)OCCOC)OC)C(=NN2)C)O | InChI=1S/C21H20ClN3O4.ClH/c1-11-17-18-13(5-7-16(20(18)28-3)29-9-8-27-2)19(23-21(17)25-24-11)12-4-6-15(26)14(22)10-12;/h4-7,10,26H,8-9H2,1-3H3,(H,23,24,25);1H
